* source I-NAND
V_VDD         N29931 0 3.3
M_M5         OUT IN N29931 N29931 CMOSP  
+ L=.18u  
+ W=.2u         
M_M6         OUT IN 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V1         IN 0  
+SIN 1.5 1.5 1Meg 0 0 0
